US03987160
3-Phenylpropionamidine hydrochloride (4.33 g; prepared as described by P. W. Neber and A. Uber, Leibig's Annalen der Chemie, 1928, 467, 52) was added to a solution of sodium methoxide (prepared from 2.17 g. sodium and 37 ml. anhydrous methanol). Ethyl α-oximinocyanoacetate (3.34 g.) was added, and the mixture was refluxed with stirring for 5.25 hours and left to stand overnight. The mauve solid was filtered off and washed with a small quantity of anhydrous methanol to give the crude sodium salt of 4-amino-5-nitroso-2-(2-phenylethyl)pyrimid-6-one (3.9 g.). An aliquot was dissolved in water, and the solution was filtered and acidified to pH 4 with glacial acetic acid to give 4-amino-5-nitroso-2-(2-phenylethyl)pyrimid-6-one as a turquoise solid, m.p. 253° C. (with decomposition, sintering at 188° C.).

reactant | 3-Phenylpropionamidine hydrochloride | Cl.C1(=CC=CC=C1)CCC(=N)N
reactant | sodium methoxide | 37 ml, 2.17 g | C[O-].[Na+]
reactant | Ethyl α-oximinocyanoacetate | 3.34 g | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
product | 4-amino-5-nitroso-2-(2-phenylethyl)pyrimid-6-one | 3.9 g | NC=1N=C(NC(C1N=O)=O)CCC1=CC=CC=C1 | C12H12N4O2
